US05559158
E. (2S,3S,5S)-2,5-Bis-(N-(((benzyl)oxy)carbonyl)amino)-1,6-diphenyl-3-hydroxyhexane
A mixture of 39.2 g (71.2 mmol) of (2S,3R,4R,5S)-2,5-bis-(N-(((benzyl)oxy)carbonyl)amino)-3,4-epoxy-1,6-diphenylhexane in 600 ml of THF was treated under N2 atmosphere with 13 g (0.36 mol) of sodium borohydride. The resulting mixture was treated dropwise with 27.7 ml (0.36 mol) of trifluoroacetic acid. After being stirred for 3.5 h at ambient temperature, the resulting mixture was quenched with 1N aqueous HCl, diluted with water, and stirred for 16 h. The resulting mixture was filtered, washed with water, and dried to provide 22.85 g (58%) of the desired compound as a white solid.

reactant | (2S,3R,4R,5S)-2,5-bis-(N-(((benzyl)oxy)carbonyl)amino)-3,4-epoxy-1,6-diphenylhexane | 71.2 mmol, 39.2 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)[C@@H]1[C@@H]([C@H](CC2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2)O1 | C34H34N2O5
reactant | sodium borohydride | 0.36 mol, 13 g | [BH4-].[Na+]
reactant | trifluoroacetic acid | 0.36 mol, 27.7 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | (2S,3S,5S)-2,5-Bis-(N-(((benzyl)oxy)carbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | 22.85 g, 58% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)[C@H](C[C@H](CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)O | C34H36N2O5
